US09212348B2
Synthesis of 3-(2-methyl-1-phenylpropan-2-yl)-1-(2-phenylpropan-2-yl)-1H-pyrazol-5(4H)-one (Compound No. 3-04 of the Present Invention)
tert-Butyl 2-(2-phenylpropan-2-yl)hydrazinecarboxylate (250 mg, 1.00 mmol) was dissolved in methylene chloride (2 mL), mixed with p-toluenesulfonic acid monohydrate (0.40 g, 2.1 mmol) and stirred at room temperature for 16 hours. After the stirring, the reaction solution was washed with saturated aqueous sodium hydrogen carbonate to terminate the reaction and then separated. The organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate and filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was dissolved in toluene (3.0 mL) and acetic acid (70 μL), and mixed with ethyl 4,4-dimethyl-3-oxo-5-phenylpentanoate (248 mg, 1.00 mmol) and stirred at 90° C. for 3 hours. After completion of the reaction, the reaction solution was cooled to room temperature and mixed with ethyl acetate. The resulting organic layer was washed with saturated aqueous sodium hydrogen carbonate and then with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate and filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by intermediate pressure silica gel column chromatography (silica gel 12 g, ethyl acetate:hexane=1:9 to 3:7) to give 42 mg of the desired product as a brown oil.

reactant | tert-Butyl 2-(2-phenylpropan-2-yl)hydrazinecarboxylate | 1.00 mmol, 250 mg | C1(=CC=CC=C1)C(C)(C)NNC(=O)OC(C)(C)C | C14H22N2O2
reactant | p-toluenesulfonic acid monohydrate | 2.1 mmol, 0.40 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | ethyl 4,4-dimethyl-3-oxo-5-phenylpentanoate | 1.00 mmol, 248 mg | CC(C(CC(=O)OCC)=O)(CC1=CC=CC=C1)C | C15H20O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 70 μL | C(C)(=O)O | C2H4O2
product | 3-(2-methyl-1-phenylpropan-2-yl)-1-(2-phenylpropan-2-yl)-1H-pyrazol-5(4H)-one | 42 mg | CC(CC1=CC=CC=C1)(C)C1=NN(C(C1)=O)C(C)(C)C1=CC=CC=C1 | C22H26N2O
